US06974802B2
b) 2,2-dimethyl-3-(N-Boc-L-valyloxy)propionic acid chloromethyl ester
2,2-dimethyl-3-(N-Boc-L-valyloxy)propionic acid (3.9 g, 12.3 mmole) was dissolved in dioxane (60 ml). To the solution was added tetrabutylammonium hydroxide aqueous solution (40%, 7.78 ml, 12 mmole). The solution was dried in vacuo, and it was coevaporated with toluene for several times. The residue was dissolved in methylene chloride and then chloroiodomethane (18.9 ml, 260 mmole) was added to the solution. After 18 hr, the reaction solution was evaporated and the product was isolated with silica gel column chromatography to yield 3.7 g.

reactant | 2,2-dimethyl-3-(N-Boc-L-valyloxy)propionic acid | 12.3 mmole, 3.9 g | CC(C(=O)O)(COC([C@@H](NC(=O)OC(C)(C)C)C(C)C)=O)C | C15H27NO6
reactant | tetrabutylammonium hydroxide | 12 mmole, 7.78 ml | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | chloroiodomethane | 260 mmole, 18.9 ml | ClCI | CH2ClI
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
product | 2,2-dimethyl-3-(N-Boc-L-valyloxy)propionic acid chloromethyl ester | ClCOC(C(COC([C@@H](NC(=O)OC(C)(C)C)C(C)C)=O)(C)C)=O | C16H28ClNO6
